US08530470B2
(R)-tert-Butyl 2-(6-(methoxycarbonyl)-2-(2-methylmorpholino)-4-oxo-4H-chromen-8-yl)-1H-pyrrole-1-carboxylate (2 g, 4.27 mmol) and 5% Rhodium on Alumina (50% wet) (0.4 g, 0.09 mmol) in MeOH (50 mL) were stirred under an atmosphere of hydrogen at 5 bar and 65° C. for 2 h. More catalyst was added and stirring continued overnight. 2 g of 5% Rh/C was then added followed by the same amount after 1 h then after another 2 h. The catalyst was filtered through celite and washed with MeOH/DCM and the solvent evaporated. The crude product was purified by flash chromatography on silica gel eluting with 10 to 15% MeOH in EtAc. The solvent was evaporated to dryness to afford tert-butyl 2-(6-(methoxycarbonyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate (1.18 g, 59%) as a white solid. Mass Spectrum: m/z [M+H]+=473.

reactant | (R)-tert-Butyl 2-(6-(methoxycarbonyl)-2-(2-methylmorpholino)-4-oxo-4H-chromen-8-yl)-1H-pyrrole-1-carboxylate | 4.27 mmol, 2 g | COC(=O)C=1C=C2C(C=C(OC2=C(C1)C=1N(C=CC1)C(=O)OC(C)(C)C)N1C[C@H](OCC1)C)=O | C25H28N2O7
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Rhodium on Alumina | 0.09 mmol, 0.4 g | [Rh] | Rh
catalyst | Rh/C | 2 g | [Rh] | Rh
product | tert-butyl 2-(6-(methoxycarbonyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate | 1.18 g, 59% | COC(=O)C=1C=C2C(C=C(OC2=C(C1)C1N(CCC1)C(=O)OC(C)(C)C)N1C[C@H](OCC1)C)=O | C25H32N2O7
